US06599942B1
The title B compound, 2-(4-fluorobenzenesulfonyl)benzene-1,4-diol (1.2 g, 4.48 mmol) is added to a suspension of NaH (60% dispersion in mineral oil; 0.39 g, 9.86 mmol) in 15 mL of NMP at 0° C. in one portion. The mixture is warmed to RT and after 30 min, 4-chloro-3,5-dimethylnitrobenzene (1 g, 5.38 mmol) is added and the reaction is heated at 120° C. for 1 h. The reaction is cooled to RT and quenched with aqueous 1N HCl. The mixture is partitioned between water and EtOAc, and the organic solution is washed with water and brine, dried over anhydrous Na2SO4 and concentrated. Chromatography on silica (eluant; EtOAc/hexane-1/2/1/1) affords 4-(2,6-dimethyl-4-nitrophenoxy)-2-(4-fluorobenzenesulfonyl)phenol: NMR (CDCl3) 2.11 (s, 6H), 6.85-6.96 (m, 3H), 7.00 (app t, 2H, J=9), 7.88 (dd, 2H, J=9, 5), 7.98 (s, 2H), 8.73 (s, 1H).

reactant | 2-(4-fluorobenzenesulfonyl)benzene-1,4-diol | 4.48 mmol, 1.2 g | FC1=CC=C(C=C1)S(=O)(=O)C1=C(C=CC(=C1)O)O | C12H9FO4S
reactant | NaH | 9.86 mmol, 0.39 g | [H-].[Na+]
reactant | 4-chloro-3,5-dimethylnitrobenzene | 5.38 mmol, 1 g | ClC1=C(C=C(C=C1C)[N+](=O)[O-])C | C8H8ClNO2
solvent | NMP | 15 mL | CN1CCCC1=O | C5H9NO
product | 4-(2,6-dimethyl-4-nitrophenoxy)-2-(4-fluorobenzenesulfonyl)phenol | CC1=C(OC2=CC(=C(C=C2)O)S(=O)(=O)C2=CC=C(C=C2)F)C(=CC(=C1)[N+](=O)[O-])C | C20H16FNO6S
